US08648068B2
1.1 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (1.17 g), (S)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate (Intermediate 1.1 g) was dissolved in dioxane (10 ml) and p-toluenesulfonic acid (61 mg) was added. The reaction was heated at 70° C. for 1.5 h. The solution was poured into sat. NaHCO3 (50 ml) and extracted with chloroform. The organic phases were passed through a phase separator and concentrated in vaco. The sample was purified by chromatography (silica gel; solvent: isohexan:EtOAc 3:1→2:1) to give the desired product.

reactant | 4-Chloro-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 1.17 g | COC(=O)C1=C(C2=C(N=CN=C2Cl)S1)C | C9H7ClN2O2S
reactant | (S)-tert-butyl 3-(2-amino-5-fluorophenoxy)piperidine-1-carboxylate | 1.1 g | NC1=C(O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C(C=C1)F | C16H23FN2O3
reactant | p-toluenesulfonic acid | 61 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-[2-((S)-1-tert-Butoxycarbonyl-piperidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)S1)C | C25H29FN4O5S
